US08754099B2
Step B: Ethoxymethyl 5-methyl-1,3,4-oxadiazol-2-yl ketone
To a stirred solution of the 2-methyl-1,3,4-oxadiazole (5.0 g, 59.5 mmol) in THF (100 mL) was added dropwise n-BuLi (23.79 mL, 59.5 mmol) in toluene under N2 at −78° C. After 1 h, ethyl ethoxyacetate (10.22 g, 77 mmol) was added. The reaction mixture was then allowed to warm to −40° C. and stirred for 2 h. The reaction mixture was then quenched with 65 mL of LON HCl and extracted with EtOAc. The organic layer was washed with water and then brine, dried over anhydrous Na2SO4, and concentrated. The resulting residue was purified on a flash chromatography column (Biotage™-40M) using a gradient of 0-100% of n-hexane/Et2O to give the desired product. 1H NMR (500 MHz, CD3OD): δ 1.27 (t, 3H), 2.64 (s, 3H), 3.69 (q, 2H), 4.88 (s, 2H).

reactant | 2-methyl-1,3,4-oxadiazole | 59.5 mmol, 5.0 g | CC=1OC=NN1 | C3H4N2O
reactant | n-BuLi | 59.5 mmol, 23.79 mL | [Li]CCCC
reactant | ethyl ethoxyacetate | 77 mmol, 10.22 g | C(C)OCC(=O)OCC | C6H12O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethoxymethyl 5-methyl-1,3,4-oxadiazol-2-yl ketone | CC1=NN=C(O1)C(=O)COCC | C7H10N2O3
